US05610161
The crude 4-(4-chlorophenyl)-4-hydroxy-1azaspiro[4.5]decane (2.2 g) was dissolved in concentrated sulphuric acid (27 ml) and the solution was stirred at ambient temperature for 1 hour. The mixture was poured onto ice to give a white precipitate which was collected by filtration, dissolved in water, and basified by the addition of 5M aqueous sodium hydroxide solution. The product was extracted into ether (3×200 ml) and the extracts were combined, dried over magnesium sulphate, and concentrated in vacuo to 100 ml. The solution was saturated with hydrogen chloride and the resulting solid was collected by filtration and dried in vacuo at 60° C. for 7 hours to give 4-(4-chlorophenyl)-1-azaspiro[4.5]dec-3-ene hydrochloride as a white solid. Yield 1.1 g, mp 225°-233° C.(dec).

reactant | 4-(4-chlorophenyl)-4-hydroxy-1azaspiro[4.5]decane | 2.2 g | ClC1=CC=C(C=C1)C1(CCNC12CCCCC2)O | C15H20ClNO
solvent | sulphuric acid | 27 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(4-chlorophenyl)-1-azaspiro[4.5]dec-3-ene hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CCNC12CCCCC2 | InChI=1S/C15H18ClN.ClH/c16-13-6-4-12(5-7-13)14-8-11-17-15(14)9-2-1-3-10-15;/h4-8,17H,1-3,9-11H2;1H
